US09328114B2
8-(6-(furan-2-yl)benzo[d][1,3]dioxol-5-ylthio)-9-(3-(isopropylamino)propyl)-9H-purin-6-amine [DZ3-4].
2-Furanylboronic acid (9.8 mg, 0.0877 mmol) was added to PU-H71 (30 mg, 0.0585 mmol) and NaHCO3 (14.7 mg, 0.1755 mmol). DMF (1 mL) was added and the reaction mixture was evacuated and back filled with nitrogen. This was repeated four times then nitrogen was bubbled through the reaction mixture for 10 minutes. Then H2O (0.1 mL) and Pd(PPh3)2Cl2 (4 mg, 0.00584 mmol) were added and the reaction mixture was heated under nitrogen at 90° C. for 3.5 h. Solvent was removed under reduced pressure and the resulting residue was purified by preparatory TLC (CH2Cl2:MeOH—NH3 (7N), 12.5:1) to give 19.1 mg (72%) of DZ3-4. 1H NMR (500 MHz, CDCl3/MeOH-d4) δ 8.18 (s, 1H), 7.49 (d, J=1.8 Hz, 1H), 7.25 (s, 1H), 6.96 (s, 1H), 6.71 (d, J=3.3 Hz, 1H), 6.47 (dd, J=1.8, 3.2 Hz, 1H), 6.06 (s, 2H), 4.20 (t, J=7.0 Hz, 2H), 2.87 (m, 1H), 2.61 (t, J=6.9 Hz, 2H), 2.00 (m, 2H), 1.14 (d, J=6.3 Hz, 6H); 13C NMR (125 MHz, CDCl3/MeOH-d4) δ 154.3, 152.2, 151.2, 150.9, 149.5, 148.14, 148.08, 142.4, 129.0, 119.2, 117.5, 114.5, 111.5, 110.0, 109.0, 102.3, 42.8, 41.0, 28.5, 21.2; HRMS (ESI) m/z [M+H]+ calcd. for C22H25N6O3S, 453.1709; found. 453.1705; HPLC: method A Rt=6.23, method B Rt=6.82.

reactant | 2-Furanylboronic acid | 0.0877 mmol, 9.8 mg | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | PU-H71 | 0.0585 mmol, 30 mg | CC(C)NCCCN1C2=C(C(=NC=N2)N)N=C1SC3=C(C=C4C(=C3)OCO4)I | C18H21IN6O2S
reactant | NaHCO3 | 0.1755 mmol, 14.7 mg | C(=O)(O)[O-].[Na+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 0.00584 mmol, 4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 0.1 mL | O | H2O
product | 8-(6-(furan-2-yl)benzo[d][1,3]dioxol-5-ylthio)-9-(3-(isopropylamino)propyl)-9H-purin-6-amine | O1C(=CC=C1)C=1C(=CC2=C(OCO2)C1)SC=1N(C2=NC=NC(=C2N1)N)CCCNC(C)C | C22H24N6O3S
